US04670604
A solution of 12.3 ml of ethyl chlorooxalate in 30 ml of methylene chloride is added dropwise to a solution, cooled to 0° C., of 43.6 g of 3-{3-[4-acetyl-3-hydroxy-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-4-bromo-6-methylaniline and 15.3 ml of triethylamine in 400 ml of methylene chloride in the course of about 5 minutes and the mixture is then stirred at room temperature for a further 90 minutes. The reaction mixture is poured onto ice-water and the organic phase is separated off, washed with water, dried over sodium sulfate and concentrated under reduced pressure. Crystallisation from ethyl acetate/ether/petroleum ether gives ethyl N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-4-bromo-6-methyl-phenyl}}-oxamate.

reactant | ethyl chlorooxalate | 12.3 ml | C(C(=O)OCC)(=O)Cl | C4H5ClO3
reactant | 3-{3-[4-acetyl-3-hydroxy-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-4-bromo-6-methylaniline | 43.6 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C(=CC2Br)C)C=C1)CCC(F)(F)F)O | C21H23BrF3NO4
reactant | triethylamine | 15.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | ethyl N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-4-bromo-6-methyl-phenyl}}-oxamate | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=CC2Br)C)NC(C(=O)OCC)=O)C=C1)CCC(F)(F)F)O | C25H27BrF3NO7
